US07750154B2
A stirred mixture of 2-amino-5-methoxybenzoic acid (10 g), trimethyl orthoformate (13.1 ml), and acetic acid (0.34 ml) in toluene (240 ml) was heated under reflux for 6 hours. 3-Amino-N-cyclopropyl-4-methylbenzamide (10.23 g) was added to the reaction mixture and stirring continued at reflux for 16 hours. The reaction mixture was allowed to cool and then was diluted with ethyl acetate. The organic solution was then washed with 1N HCl solution, 2N NaOH solution (×2), brine, dried (magnesium sulfate), and concentrated to a cream coloured foam/solid. Recrystallisation from ethyl acetate gave N-cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12239719) (11.33 g) as a white solid; NMR Spectrum: (DMSOd6) 0.62 (m, 2H), 0.75 (m, 2H), 2.19 (s, 3H), 2.90 (m, 1H), 3.95 (s, 3H), 7.56 (m, 2H), 7.63 (s, 1H), 7.78 (d, 1H), 7.89 (s, 1H), 7.95 (d, 1H), 8.23 (s, 1H), 8.48 (d, 1H); Mass Spectrum: M+H+ 350. B) To a solution of N-Cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (4.62 g) in methylene chloride (90 ml) was added 1M boron tribromide in methylene chloride (53 ml) and stirred for 20 hours. The reaction was quenched with water and then diluted with 2N NaOH solution until the solid dissolved. The aqueous layer was washed with methylene chloride (2×) and then acidified to pH 1 with 2N HCl solution and extracted with ethyl acetate (3×). The combined organic extracts were concentrated and the solid was dried by azeotropic removal of water using toluene to yield N-cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12266450) (3.06 g) as a white solid; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 2.12 (s, 3H), 2.85 (m, 1H), 7.35 (d, 1H), 7.50 (s, 1H), 7.52 (d, 1H), 7.66 (d, 1H), 7.82 (s, 1H), 7.90 (d, 1H), 8.11 (s, 1H), 8.42 (d, 1H), 10.20 (broad s, 1H); Mass Spectrum: M+H+ 336.

reactant | 2-amino-5-methoxybenzoic acid | 10 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | trimethyl orthoformate | 13.1 ml | C(OC)(OC)OC | C4H10O3
reactant | acetic acid | 0.34 ml | C(C)(=O)O | C2H4O2
reactant | 3-Amino-N-cyclopropyl-4-methylbenzamide | 10.23 g | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide | 11.33 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC)=O | C20H19N3O3
